US06355798B1
b) 2-(5-Hydroxymethyl-1,2,4-triazol-1-yl)ethanol
A solution of 2-(1,2,4-triazol-1yl)ethanol (5.0 g, 44 mmol) in 38% w/v aqueous formaldehyde (25 ml) was stirred and heated at 135° C. in a sealed tube for 18 hours. Upon cooling the volatiles were removed in vacuo (azeotroping with ethanol). The residue was purified by chromatography on silica gel, eluting with 5→10→15% methanol-dichloromethane to give the title compound (4.3 g, 68%) as a thick oil. 1H NMR (360 MHz, d6-DMSO) δ 3.69-3.74 (2H, m), 4.24 (2H, t, J=5.7 Hz), 4.60 (2H, d, J=5.7 Hz), 4.96 (1H, t, J=5.3 Hz), 5.51 (1H, t, J=5.8 Hz), 7.84 (1H, s); MS (ES+) m/e 144 [MH]+.

reactant | 2-(1,2,4-triazol-1yl)ethanol | 44 mmol, 5.0 g | N1(N=CN=C1)CCO | C4H7N3O
reactant | formaldehyde | 25 ml | C=O | CH2O
product | 2-(5-Hydroxymethyl-1,2,4-triazol-1-yl)ethanol | 4.3 g, 68% | OCC1=NC=NN1CCO | C5H9N3O2
